US07432258B2
N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-N-methyl-2-[6-methyl-5-(methyloxy)-2-oxo-1,3-benzoxazol-3(2H)-yl]acetamide
[6-Methyl-5-(methyloxy)-2-oxo-1,3-benzoxazol-3(2H)-yl]acetic acid (59 mg, 0.25 mmol) and BOP reagent (133 mg, 0.30 mmol) were dissolved in CH2Cl2 (1 mL), and diisopropylethylamine (32 mg, 0.25 mmol) was added. The resulting mixture was stirred at room temperature for 5 min, then 1-(4-biphenylyl)-N-methyl-2-(4-morpholinyl)ethanamine (74 mg, 0.25 mmol) was added. Stirring was continued for 16 h and then the mixture was concentrated. The residue was dissolved in CH3OH, and purified by preparative HPLC (YMC CombiPrep ODS-A, 50×50 mm, 50 mL/min, A: acetonitrile B: water with NH4OH at pH=10, A: 20% to 70% during 12 min, UV detection at 214 nm) to give 32 mg (25%) of the title compound as a white solid. MS (ES) m/e 516 [M+H]+.

reactant | [6-Methyl-5-(methyloxy)-2-oxo-1,3-benzoxazol-3(2H)-yl]acetic acid | 0.25 mmol, 59 mg | CC1=CC2=C(N(C(O2)=O)CC(=O)O)C=C1OC | C11H11NO5
reactant | BOP reagent | 0.30 mmol, 133 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.25 mmol, 32 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(4-biphenylyl)-N-methyl-2-(4-morpholinyl)ethanamine | 0.25 mmol, 74 mg | C1(=CC=C(C=C1)C(CN1CCOCC1)NC)C1=CC=CC=C1 | C19H24N2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-N-methyl-2-[6-methyl-5-(methyloxy)-2-oxo-1,3-benzoxazol-3(2H)-yl]acetamide | 32 mg, 25% | C1(=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(OC2=C1C=C(C(=C2)C)OC)=O)=O)C)C2=CC=CC=C2 | C30H33N3O5
